US08895780B2
N-Butyl 2-propynamide:
To a solution of 30 mL of water and 7.3 g (100 mmol) n-Butylamine is added dropwise 8.4 g (100 mmol) methyl propiolate at 0° C. for 30 minutes. The mixture was stirred for 2 h at 0° C., then acetic acid (2 mL) was added. The mixture was stirred for another 10 minutes and saturated with NaCl, followed by extraction with ethyl acetate (3×20 mL). The combined organic phase was washed with saturated aqueous solution of NaHCO3 (20 mL), dried over Na2SO4, and removed by rotary evaporation to give product (12.0 g, yield 96%, purity 96% by GC).

reactant | water | 30 mL | O | H2O
reactant | n-Butylamine | 100 mmol, 7.3 g | C(CCC)N | C4H11N
reactant | methyl propiolate | 100 mmol, 8.4 g | C(C#C)(=O)OC | C4H4O2
reactant | NaCl | [Na+].[Cl-]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | N-Butyl 2-propynamide | yield 96% | C(CCC)NC(C#C)=O | C7H11NO
